US04395406
1,4-Dimethyl-5-bromopyrimid-2-one
Bromine (0.012 mol) was added to an aqueous solution (100 ml) of 1,4-dimethylpyrimid-2-one (0.008 mole) and the reaction mixture left at room temperature for 3 hr before freeze-drying. The residual material was triturated with acetone and recrystallised from water; yield 40%, m.p. 170° C. (decomp.). (Found: C, 25.5; H, 2.9. Calc. for C6H7BrN2O HBr: C, 24.4; H, 2.8).

reactant | Bromine | 0.012 mol | BrBr | Br2
reactant | 1,4-dimethylpyrimid-2-one | 0.008 mole, 100 ml | CN1C(N=C(C=C1)C)=O | C6H8N2O
product | 1,4-Dimethyl-5-bromopyrimid-2-one | yield 40% | CN1C(N=C(C(=C1)Br)C)=O | C6H7BrN2O
